US04098893
N-Hydroxymethyl 2-nitroisonicotinamide (Compound No. 11)
0.8 g. of 2-nitroisonicotinamide and 2 ml. of 37% formalin were stirred in 2 ml. of dimethylformamide at 110° C for 2 hours. After cooling, to this solution was added ice-water, and the mixture was extracted with ethyl acetate. The extract was washed with water, dried and the solvent was evaporated yielding crystals. The crystals obtained were recrystallized from ethyl acetate to give 0.6 g. of pale yellow crystals.

reactant | 2-nitroisonicotinamide | [N+](=O)([O-])C=1C=C(C(=O)N)C=CN1 | C6H5N3O3
reactant | formalin | C=O | CH2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-Hydroxymethyl 2-nitroisonicotinamide | OCNC(C1=CC(=NC=C1)[N+](=O)[O-])=O | C7H7N3O4
